US06121307
[3-(1H-Indol-3-yl)butyl]-[2-(1H-indol-4-yloxy)ethyl]amine (5c)
This compound was prepared in the manner described above for Example 5 using 2-(1H-indol-4-yloxy)ethylchloride and 3-indolyl-butylamine in 43% yield as an off-white solid: mp 70-73° C.

reactant | 2-(1H-indol-4-yloxy)ethylchloride | N1C=CC2=C(C=CC=C12)OCCCl | C10H10ClNO
reactant | 3-indolyl-butylamine | N1C(=CC2=CC=CC=C12)C(CCN)C | C12H16N2
product | [3-(1H-Indol-3-yl)butyl]-[2-(1H-indol-4-yloxy)ethyl]amine | 43% yield | N1C=C(C2=CC=CC=C12)C(CCNCCOC1=C2C=CNC2=CC=C1)C | C22H25N3O
